US06028032
Diethylaminosulphur trifluoride (1.27 ml) was added to a stirred solution of tert butyl 2-(2,3-dihydro-6-hydroxymethyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate (3.5 g) in dichloromethane at -78° C. After 0.5 hour the solution was allowed to warm to room temperature and stirred for 16 hours. The mixture was poured into saturated ammonium chloride solution and the organic phase washed (brine), dried (magnesium sulphate) and evaporated. The residue was purified by dry column chromatography on silica get, eluting with dichloromethane/hexane (1:1) to give tert butyl 2-(6-fluoromethyl-2,3-dihydro-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate (1.31 g) as a white solid, m.p. 80.5-82.5° C.

reactant | Diethylaminosulphur trifluoride | 1.27 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | tert butyl 2-(2,3-dihydro-6-hydroxymethyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate | 3.5 g | OCC1=C(C(N(CO1)C(C(=O)OC(C)(C)C)(C)C)=O)C1=CC=CC=C1 | C19H25NO5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert butyl 2-(6-fluoromethyl-2,3-dihydro-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate | 1.31 g | FCC1=C(C(N(CO1)C(C(=O)OC(C)(C)C)(C)C)=O)C1=CC=CC=C1 | C19H24FNO4
